US07557114B2
(f) 5-Fluoro-6-iodo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
Prepared in analogy to Example A3(c) from 5-fluoro-6-iodo-2,3-dihydro-1H-isoindole and di-tert-butyl dicarbonate. Light yellow solid. MS (m/e): 308.1 ([M+H-Me2C═CH2]+, 100%).

reactant | 5-fluoro-6-iodo-2,3-dihydro-1H-isoindole | FC=1C=C2CNCC2=CC1I | C8H7FIN
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | 5-Fluoro-6-iodo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C1)F)I | C13H15FINO2
